US08431563B2
A 250 mL round-bottomed flask was charged with tert-butyl 4-(2-bromo-4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-1-piperazinecarboxylate (3.70 g, 8.16 mmol), 25 mL of EtOAc, and 8 mL of 4M HCl in dioxane (32 mmol). After heating at reflux for 30 min, the mixture was cooled and concentrated. The resulting viscous oil was dissolved in 30 mL of CH2Cl2 and triethylamine (3.98 mL, 28.6 mmol). At 0° C., 2-thiophenesulfonyl chloride (1.49 g, 8.16 mmol, Sigma-Aldrich, St. Louis, Mo.) was added at 0° C. After 15 min, the mixture was concentrated then re-dissolved in 5 mL of CH2Cl2, filtered, and purified via column chromatography (120 g of silica, 0 to 50% EtOAc in hexanes) to give 2-(3-bromo-4-(4-(thiophen-2-ylsulfonyl)piperazin-1-yl)phenyl)-1,1,1-trifluoro-2-propanol (2.75 g) as a white solid.

reactant | tert-butyl 4-(2-bromo-4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-1-piperazinecarboxylate | 8.16 mmol, 3.70 g | BrC1=C(C=CC(=C1)C(C(F)(F)F)(C)O)N1CCN(CC1)C(=O)OC(C)(C)C | C18H24BrF3N2O3
reactant | HCl | 4M, 8 mL | Cl | ClH
reactant | dioxane | 32 mmol | O1CCOCC1 | C4H8O2
reactant | triethylamine | 28.6 mmol, 3.98 mL | C(C)N(CC)CC | C6H15N
reactant | 2-thiophenesulfonyl chloride | 8.16 mmol, 1.49 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 2-(3-bromo-4-(4-(thiophen-2-ylsulfonyl)piperazin-1-yl)phenyl)-1,1,1-trifluoro-2-propanol | 2.75 g | BrC=1C=C(C=CC1N1CCN(CC1)S(=O)(=O)C=1SC=CC1)C(C(F)(F)F)(C)O | C17H18BrF3N2O3S2
